US07557110B2
Synthesis of {5-[(trans-4-aminocyclohexyl)amino]-6-methyl(pyrazolo[1,5-a]pyrimidin-7-yl)}(3-(3-pyridyl)phenyl)amine (Compound NO: 450).
The title compound and Boc protected intermediate were synthesised in the same manner as above using N-{5-[(trans-4-aminocyclohexyl)amino]-6-methyl(pyrazolo[1,5-a]pyrimidin-7-yl)}(tert-butoxy)-N-(3-iodophenyl)carboxamide, pyridine-3-boronic acid, Na2CO3 palladium (II) acetate and triphenylphosphine. The title compound (6.1 mg, 15% yield as 3 trifluoroacetic acids salt) was obtained. The HPLC retention time and ESI/MS data for this compound are shown below.

reactant | N-{5-[(trans-4-aminocyclohexyl)amino]-6-methyl(pyrazolo[1,5-a]pyrimidin-7-yl)}(tert-butoxy)-N-(3-iodophenyl)carboxamide | N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1C)N(C(=O)OC(C)(C)C)C1=CC(=CC=C1)I)N=CC2 | C24H31IN6O2
reactant | pyridine-3-boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | {5-[(trans-4-aminocyclohexyl)amino]-6-methyl(pyrazolo[1,5-a]pyrimidin-7-yl)}(3-(3-pyridyl)phenyl)amine | 6.1 mg, 15% yield | N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1C)NC1=CC(=CC=C1)C=1C=NC=CC1)N=CC2 | C24H27N7
